US07576215B2
3-BENZYL-4-[3-(1,2,3,4-TETRAHYDRONAPHTHALEN-1-YLMETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLINE
This compound was prepared according to the procedure of example 69, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol and (1,2,3,4-tetrahydro naphthalen-1-yl)-methanol. MS (ESI) m/z 524.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | (1,2,3,4-tetrahydro naphthalen-1-yl)-methanol | C1(CCCC2=CC=CC=C12)CO | C11H14O
product | 3-BENZYL-4-[3-(1,2,3,4-TETRAHYDRONAPHTHALEN-1-YLMETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1CCCC2=CC=CC=C12)C(F)(F)F | C34H28F3NO
